US09023840B2
Step 3: 5-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide
Boron trifluoride etherate (0.078 mL, 0.62 mmol) was added to a solution of 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide in acetonitrile (4.0 mL) at 0° C. under N2. The reaction mixture was stirred at room temperature for 3 h. (LCMS (M+H)+: m/z=527.2). The mixture was cooled to 0° C., water (1.6 mL) was added. After 30 min., 5.0 M ammonium hydroxide in water (0.38 mL, 1.9 mmol) was added slowly at 0° C. in 5 min. Then the reaction mixture was stirred at room temperature overnight. The mixture was worked up with saturated aqueous NaHCO3, extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in dichloromethane (0-5%) to afford the desired product (52 mg, 51%). LCMS (M+H)+: m/z=497.1. 1H NMR (400 MHz, DMSO-d6): δ 12.60 (br, 1H), 9.09 (s, 1H), 8.84 (d, J=8.8 Hz, 1H), 8.83 (s, 1H), 8.69 (d, J=1.4 Hz, 1H), 8.56 (s, 1H), 8.02 (d, J=1.4 Hz, 1H), 7.77 (br, 1H), 7.23 (br, 1H), 4.84 (d, J=9.9 Hz, 2H), 4.80 (m, 1H), 4.57 (d, J=9.9 Hz, 2H), 3.80 (s, 2H), 1.36 (d, J=7.1 Hz, 3H).

reactant | Boron trifluoride etherate | 0.62 mmol, 0.078 mL | B(F)(F)F.CCOCC
reactant | 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C28H33F3N10O2Si
reactant | ammonium hydroxide | 5.0 M | [OH-].[NH4+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | water | 1.6 mL | O | H2O
solvent | water | 1.9 mmol, 0.38 mL | O | H2O
product | 5-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide | 52 mg, 51% | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C22H19F3N10O
